### PR TITLE
Fix problems around `Aeneas.Std.bind`

### PR DESCRIPTION
**Pull request by andricicezar**
Stateful effects push the Result monad to a different universe, and I had troubles with `Aeneas.Std.bind` not being properly integrated. This PR fixes some of those problems.

### CODE REVIEW

File: backends/lean/Aeneas/Std/WP.lean [hunk 1]
```diff
@@ -146,23 +146,6 @@ theorem spec_fail_pair (e : Error) (f : α → β → Prop) :
...
-  grind
-
-theorem spec_bind {α β} {k : α -> Result β} {Pₖ : Post β} {m : Result α} {Pₘ : Post α} :
-  spec m Pₘ →
-  (forall x, Pₘ x → spec (k x) Pₖ) →
-  spec (m >>= k) Pₖ := by
-  intro Hm Hk
-  cases Hm
-  simp [Bind.bind]
-  grind only
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean:164]: Why completely remove these?

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 2]
```diff
@@ -284,6 +284,20 @@ def Result.ofOption {a : Type u} (x : Option a) (e : Error) : Result a :=
 @[simp] theorem bind_tc_div (f : α → Result β) :
   (do let y ← div; f y) = div := by simp [bind, Bind.bind, div]
 
+/-- Associativity for `Result` computations whose value types have different universes. -/
+theorem bind_assoc_poly {α : Type u} {β : Type v} {γ : Type w}
+    (x : Result α) (f : α → Result β) (g : β → Result γ) :
+    bind (bind x f) g = bind x (fun a => bind (f a) g) := by
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean:290]: I guess the current version of `bind_assoc` that is not universe polymorphic is the one that comes from the Lean standard library? I see there also exists `bind_assoc_eq`. Can't we make this one more general?

File: backends/lean/Aeneas/Do/Elab.lean [hunk 3]
```diff
@@ -543,6 +556,18 @@ end
...
+def normalizeResultBinds (expr : Expr) : MetaM Expr :=
+  Meta.transform expr (post := fun e => do
+    if e.isAppOfArity ``Aeneas.Std.bind 4 then
+      let [u, v] := e.getAppFn.constLevels! | return .done e
+      if u == v then
+        let args := e.getAppArgs
+        return .done (← mkAppOptM ``Bind.bind
+          #[some (mkConst ``Aeneas.Std.Result [u]), none,
+            some args[0]!, some args[1]!, some args[2]!, some args[3]!])
+    return .done e)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Do/Elab.lean:569]: Why do we need this (the docstring is not very informative)?

File: backends/lean/Aeneas/Command/Decompose.lean [hunk 4]
```diff
@@ -712,6 +731,38 @@ where
...
+      let some matcher ← matchMatcherApp? body | return .done e
+      unless matcher.discrs == #[arg] && matcher.alts.size == 1 do return .done e
+      lambdaTelescope matcher.alts[0]! fun fields body => do
+        let some (tree, count) ← tuplePatternTree? type fields 0 | return .done e
+        unless count == fields.size do return .done e
+        let cont' ← rebuildUncurryFromTree tree body
+        if cont'.containsFVar arg.fvarId! then return .done e
+        unless ← isDefEq cont cont' do
+          throwError "#decompose: tuple-pattern normalization changed the continuation"
+        return .done (mkApp2 e.appFn!.appFn! computation cont'))
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Command/Decompose.lean:764]: This shouldn't happen: it seems there is an issue with the do-elab?

File: backends/lean/Aeneas/Command/Decompose.lean [hunk 5]
```diff
@@ -1432,14 +1483,28 @@ private def simpOnlyTarget (mvarId : MVarId) (declsToUnfold : Array Name)
...
   let unfoldNames := defNames ++ #[``_root_.Aeneas.Std.uncurry]
   let mvarId' ← mvarId.deltaTarget (unfoldNames.contains ·)
+  let hasResultBind := ((← mvarId'.getType).find?
+    (·.isAppOfArity ``Aeneas.Std.bind 4)).isSome
+  -- Keep the existing fast path for large same-universe decompositions.
+  let simpThms := if hasResultBind then
+      #[``resultBind_eq, ``resultPure_eq,
+        ``Aeneas.Std.bind_assoc_eq, ``Aeneas.Std.bind_assoc_poly,
+        ``Aeneas.Std.bind_ok, ``LawfulMonad.pure_bind]
+    else #[``Aeneas.Std.bind_assoc_eq, ``LawfulMonad.pure_bind]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Command/Decompose.lean:1507]: Why an `if then else`? It seems we could use a single set of lemmas. Does it really affect performance?

File: backends/lean/Aeneas/Std/WP.lean (hunk 1 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Std/WP.lean]: They are not used anywhere. There were two sets of `spec_mono` and `spec_bind`, one for `Bind.bind` and one for `Std.bind` (which is universe polymorphic), and only the latter was registered with `step`. Aeneas was applying the version for `Std.bind` everywhere.

File: backends/lean/Aeneas/Std/Primitives.lean (hunk 2 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Std/Primitives.lean]: Yes, `bind_assoc` from the Lean standard library is not universe polymorphic. Also, `bind_assoc` is defined for `Bind.bind` and `bind_assoc_poly` is defined for `Std.bind`. Super confusing stuff. I will try to see if we can remove `Bind.bind` completely.

File: backends/lean/Aeneas/Do/Elab.lean (hunk 3 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Do/Elab.lean]: it was a bug. removed.

File: backends/lean/Aeneas/Command/Decompose.lean (hunk 4 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Command/Decompose.lean]: it was a bug. removed.

File: backends/lean/Aeneas/Command/Decompose.lean (hunk 5 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Command/Decompose.lean]: solved.

File: backends/lean/Aeneas/Std/Primitives.lean (hunk 2 above)
Comment (sonmarcho) [reply backends/lean/Aeneas/Std/Primitives.lean]: Yes, that's very confusing. Could we turn `bind_assoc_poly` into `Std.bind_assoc`?

Comment (sonmarcho) [reply backends/lean/Aeneas/Std/Primitives.lean]: I see you already did this update actually...

File: backends/lean/Aeneas/Do/Delab.lean [hunk 6]
```diff
@@ -112,18 +116,27 @@ where
...
+/-- Top-level `do`-block delab for `Std.bind`. -/
+@[delab app.Aeneas.Std.bind]
+meta def aeneasDelabDo : Delab := do
+  unless (← getExpr).isAppOfArity ``Aeneas.Std.bind 4 do failure
+  aeneasDelabDoCore
+
+/-- Top-level `do`-block delab for `Bind.bind`, restricted to the `Std.Result` monad
+    (the code elaborated with Lean's `do`). -/
+@[delab app.Bind.bind]
+meta def aeneasDelabBindDo : Delab := do
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Do/Delab.lean]: The names are a bit confusing (`aeneasDelabDo` vs `aeneasDelabBindDo`).
Maybe `aeneasDelabStdBindDo` vs `aeneasDelabBindBindDo`? Or `poly` vs `mono`?

**Review by sonmarcho — COMMENTED** [review]
Looks good, thanks! I have a single minor comment.

File: backends/lean/Aeneas/Do/Delab.lean (hunk 6 above)
Comment (andricicezar) [reply backends/lean/Aeneas/Do/Delab.lean]: Renamed to `aeneasDelabStdBindDo` and `aeneasDelabBindBindDo`

**Review by sonmarcho — APPROVED** [review]
